US06326386B1
(2-{3-Chloro-5-[(2-cyano-ethyl)-(2,2-dimethyl-propyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester
To a stirred solution of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro benzoic acid (0.060 g), TBTU (0.096 g) and HOBT (0.030 g) in DMF (1 ml) was added DIPEA (0.052 ml) followed by 3-(2,2-dimethyl-propylamino)-propionitrile5 (0.043 g) after 15 min. The reaction was stirred at room temperature for 18 h, and then concentrated under reduced pressure. The residue was subjected to preparative hplc and the title compound (0.053 g) was obtained as a colourless oil by concentration of the required fraction under reduced pressure and drying by repetitive addition of acetonitrile and concentration under reduced pressure.

reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro benzoic acid | 0.060 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | TBTU | 0.096 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | 0.030 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.052 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (2-{3-Chloro-5-[(2-cyano-ethyl)-(2,2-dimethyl-propyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester | 0.053 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CC(C)(C)C)CCC#N)=O)Cl)=O | C27H35ClN4O4
